US04597902
N'-[2-(Diethylamino)-1-methylethyl]-N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]urea
A mixture of 12.15 g (0.075 mole) of 1,1'-carbonyl diimidazole and 7.50 g (0.0476 mole) of 1-diethylamino-2-propanamine in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 12.26 g (0.054 mole) of N-[2-(phenylsulfonyl)ethyl]-2-propanamine in 50 ml of tetrahydrofuran was added, and the solution was refluxed for 19 hr. The solvent was removed in vacuo, and the residue was dissolved in a 50/50 mixture of methylene chloride and ether. The organic solution was extracted with several portions of water and was dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. Flash chromatography on silica gel (elution with methanol) gave 10.87 g (52.3 g) of clear colorless oil. 1H NMR (CDCl3)δ7.5-8.15 (m, s. aromatic), 5.35 (br s, 1, NH), 4.1 (m, 1, (CH3)2CH), 3.45-4.0 (m, 1. NHCH(CH3)CH2), 2.5-2.85 (m, 6, CH2CH3)), 0.85-1.3 (m, 15, CH3 groups).

reactant | 1,1'-carbonyl diimidazole | 0.075 mole, 12.15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-diethylamino-2-propanamine | 0.0476 mole, 7.50 g | C(C)N(CC(C)N)CC | C7H18N2
reactant | N-[2-(phenylsulfonyl)ethyl]-2-propanamine | 0.054 mole, 12.26 g | C1(=CC=CC=C1)S(=O)(=O)CCNC(C)C | C11H17NO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N'-[2-(Diethylamino)-1-methylethyl]-N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]urea | 10.87 g | C(C)N(CC(C)NC(N(CCS(=O)(=O)C1=CC=CC=C1)C(C)C)=O)CC | C19H33N3O3S
